US09029391B2
2-(tert-Butoxy)-2-(4-((3,4-dimethylphenyl)(methyl)amino)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetic acid
To a mixture of methyl 2-(4-((3,4-dimethylphenyl)(methyl)amino)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-hydroxyacetate (90 mg, 0.237 mmol) and amberlyst 15 resin (45 mg, 0.237 mmol) in DCM (3 mL) at −70° C. was bubbled a stream of isobutylene until the volume doubles. The tube was sealed, and the reaction was stirred at room temperature for 10 hours. The mixture was filtered through a short pad of silica gel, washed with DCM and EtOAc, and the filtrate was concentrated. The mixture was purified on silica using EtOAc/hexanes 0-40% to give the intermediate methyl ester as an off-white solid (41.6 mg, 39%). 1H NMR (400 MHz, CDCl3) δ ppm 8.56-8.44 (m, 1 H), 7.59-7.42 (m, 3 H), 7.26-7.14 (m, 1 H), 7.05-6.93 (m, 1 H), 6.03-5.82 (m, 2 H), 3.74-3.67 (m, 7 H), 3.33 (s, 4 H), 2.23-2.12 (m, 6 H), 1.38-1.22 (m, 4 H), 1.12-1.00 (m, 9 H); ES-LCMS: 437.4 (M+1). To a solution of methyl 2-(tert-butoxy)-2-(4-((3,4-dimethylphenyl)(methyl)amino)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate (41.6 mg) in THF (3.0 mL) and MeOH (1 mL) was added a solution of LiOH/water (1.183 mL, 1.183 mmol). The mixture was stirred at room temperature for 18 hours. The mixture was cooled to 0° C. and 1N HCl/water was added to pH˜3 and the mixture was purified by reverse phase HPLC on a C18 column using MeCN/water 10-90% containing 0.05% TFA to provide the title compound as an off-white solid (19.5 mg, 19%). 1H NMR (400 MHz, CDCl3) ppm 8.58-8.42 (m, 1 H), 7.62-7.45 (m, 2 H), 7.21-7.12 (m, 1 H), 7.02-6.58 (m, 2 H), 6.02 (s, 1 H), 3.79-3.63 (m, 3 H), 3.41 (s, 3 H), 2.30-2.07 (m, 6 H), 1.27-1.08 (m, 9 H); ES-LCMS: 423.4 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-((3,4-dimethylphenyl)(methyl)amino)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate | 41.6 mg | C(C)(C)(C)OC(C(=O)OC)C=1N(C(C2=CC=CC=C2C1N(C)C1=CC(=C(C=C1)C)C)=O)C | C26H32N2O4
reactant | LiOH water | 1.183 mmol, 1.183 mL | [Li+].[OH-].O
reactant | HCl water | 1N | Cl.O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(tert-Butoxy)-2-(4-((3,4-dimethylphenyl)(methyl)amino)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetic acid | 19.5 mg, 19% | C(C)(C)(C)OC(C(=O)O)C=1N(C(C2=CC=CC=C2C1N(C)C1=CC(=C(C=C1)C)C)=O)C | C25H30N2O4
